### PR TITLE
[Merged by Bors] - feat: establish behavior of Nevanlinna functions when taking powers

### PR DESCRIPTION
**Pull request by kebekus**
Establish the behavior of Nevanlinna functions when taking powers.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. The formula established here is part of a larger package discussing the behavior of the Nenvanlinna height under algebraic manipulations of the functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean [hunk 1]
```diff
@@ -62,4 +62,22 @@ lemma characteristic_sub_characteristic_eq_proximity_sub_proximity (h : Meromorp
     characteristic f ⊤ - characteristic (f · - a₀) ⊤ = proximity f ⊤ - proximity (f · - a₀) ⊤ := by
   simp [← Pi.sub_def, characteristic, logCounting_sub_const h]
 
+/--
+For natural numbers `n`, the counting function counting zeros of `f ^ n` equals `n` times the
+counting function counting zeros of `f`.
+-/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean:120]: did you mean `counting` here? This is about the `characteristic` function, which I understand is related.

File: Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean [hunk 2]
```diff
@@ -62,4 +62,22 @@ lemma characteristic_sub_characteristic_eq_proximity_sub_proximity (h : Meromorp
...
+@[simp]
+theorem characteristic_pow_zero {f : ℂ → ℂ} {n : ℕ} (hf : MeromorphicOn f Set.univ) :
+    characteristic (f ^ n) 0 = n • characteristic f 0 := by
+  simp_all [characteristic]
+
+/--
+For natural numbers `n`, the counting function counting poles of `f ^ n` equals `n` times the
+counting function counting poles of `f`.
+-/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean:129]: likewise

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean:120]: Fix. Thanks for catching that.

File: Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CharacteristicFunction.lean:129]: ditto.
